US06828460B2
trans/cis-[4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]methanol
tert-Butyl[3-{[tert-butyl(dimethyl)silyl]oxy}-4-(4-methylenecyclohexyl)phenoxy]dimethyl silane (135 mg) was dissolved in anhydrous THF (5 ml) with stirring and cooled to −78° C. 9-Borabicyclo[3.3.1]nonane (3.13 ml, 0.5M in THF) was added to the stirred solution and the resulting reaction mixture allowed to warm to room temperature over 3 hr and then stirred for 3 days. Cooling to 0° C. was followed by addition of hydrogen peroxide (1 ml, 30% aqueous solution) and sodium hydroxide (1 ml, 2M aqueous solution). The reaction mixture was allowed to warm to room temperature with stirring over 1 hr. cooled to 0° C., and saturated aqueous sodium metabisulphate solution (30 ml) was added. The layers were separated and the aqueous layer extracted with ethyl acetate (3×20 ml). The combined organic phases were washed with brine (20 ml), dried over anhydrous magnesium sulphate, and concentrated in vacuo. Purification via flash column chromatography (SiO2 eluting with petroleum ether:diethyl ether, 3:17 v/v) afforded the desired product as a yellow oil (73 mg, 52%). δH(CDCl3): 0.18 (6H, s), 0.22 (6H, s), 0.97 (9H, s), 1.00 (9H, s), 1.03-1.15 (0.5H, m), 1.22-1.33 (0.5H, m), 1.43-1.61 (4H, m), 1.77-1.94 (4H, m), 2.75-2.92 (1H, m), 3.47 (1H, d), 3.70 (1H, d), 6.26-6.29 (1H, m), 6.37-6.40 (1H, m), 6.93-6.97 (1H, m).

reactant | tert-Butyl[3-{[tert-butyl(dimethyl)silyl]oxy}-4-(4-methylenecyclohexyl)phenoxy]dimethyl silane | 135 mg | C(C)(C)(C)[Si](C)(C)OC1=CC(=C(C=C1)C1CCC(CC1)=C)O[Si](C)(C)C(C)(C)C | C25H44O2Si2
reactant | 9-Borabicyclo[3.3.1]nonane | 0.5M, 3.13 ml | C12CCCC(CCC1)B2 | C8H15B
reactant | hydrogen peroxide | 1 ml | OO | H2O2
reactant | sodium hydroxide | 2M, 1 ml | [OH-].[Na+]
reactant | sodium metabisulphate | 30 ml | S(=O)(=O)([O-])S(=O)(=O)[O-].[Na+].[Na+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | cis-[4-(2,4-Bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexyl]methanol | 73 mg, 52% | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)[C@H]1CC[C@H](CC1)CO | C25H46O3Si2
